US07414134B2
Step (i): Synthesis of (R)-3-(1-((R)-6-(methoxycarbonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanoic acid (70)
A solution of (R)-2-(4-methylbenzenesulfonamido)pent-4-ynoic acid (6.25 g, 23.4 mmol) and (R)-methyl 5-azido-5,6,7,8-tetrahydronaphthalene-2-carboxylate (5.4 g, 23.4 mmol) in 80 mL t-BuOH was treated with sodium ascorbate (0.47 g, 2.34 mmole in 24 mL H2O) and CuSO4.5H2O (0.58 g, 2.34 mmol in 24 mL H2O). An additional portion of H2O (50 mL) was then added to the reaction mixture. After stirring for 48 h at RT, the reaction mixture was diluted with H2O. A precipitate had formed that was filtered and air-dried. MS (m/z): 499.4 (m+H).

reactant | (R)-2-(4-methylbenzenesulfonamido)pent-4-ynoic acid | 23.4 mmol, 6.25 g | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CC#C | C12H13NO4S
reactant | (R)-methyl 5-azido-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 23.4 mmol, 5.4 g | N(=[N+]=[N-])[C@H]1C=2C=CC(=CC2CCC1)C(=O)OC | C12H13N3O2
reactant | sodium ascorbate | 2.34 mmole, 24 mL, 0.47 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH | 80 mL | CC(C)(C)O | C4H10O
solvent | H2O | O | H2O
solvent | H2O | 50 mL | O | H2O
product | (R)-3-(1-((R)-6-(methoxycarbonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanoic acid | COC(=O)C=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C | C24H26N4O6S
